US06166027
10 g (41 mmol) of 3-iodoindazole (U. Wrzeciono et al., Pharmazie 1978, 34, 20) are dissolved in 125 ml of DMF under argon, 0.7 g of Pd(PPh3)4 is added and the mixture is stirred for 15 minutes. 19.4 g (43.9 mmol) of 2-(5-tributylstannyl-2-furanyl)-1,3-dioxolane are added and the mixture is stirred at 100° C. for 2 hours. The solvent is evaporated off in vacuo and the residue is chromatographed over silica gel using toluene and toluene/ethyl acetate mixtures as the eluent. 10 g (90.3% of theory) of 3-(2-(5-(1,3-dioxolan-2-yl)furyl)indazole are obtained.

reactant | 3-iodoindazole | 41 mmol, 10 g | IC1=NNC2=CC=CC=C12 | C7H5IN2
reactant | 2-(5-tributylstannyl-2-furanyl)-1,3-dioxolane | 43.9 mmol, 19.4 g | C(CCC)[Sn](C1=CC=C(O1)C1OCCO1)(CCCC)CCCC
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-(1,3-dioxolan-2-yl)furyl)indazole | O1C(OCC1)C1=CC=C(O1)N1N=C2C=CC=CC2=C1 | C14H12N2O3
